US08349893B2
The title compound, m/e=361.5 ([M−H]−), was produced in analogy with intermediate 1, steps 3 and 4. Thus, commercially available 9-phenylnonanoic acid was coupled in step 3 with (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride to produce (R)-4-dimethylamino-3-(9-phenyl-nonanoylamino)-butyric acid benzyl ester, which was hydrogenated in step 4.

reactant | 9-phenylnonanoic acid | C1(=CC=CC=C1)CCCCCCCCC(=O)O | C15H22O2
reactant | (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)N)=O
product | (R)-4-dimethylamino-3-(9-phenyl-nonanoylamino)-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)NC(CCCCCCCCC1=CC=CC=C1)=O)=O | C28H40N2O3
